US04254134
N-(6-fluoro-1,3,4,9-tetrahydro-2H-carbazol-2-yl) acetamide (Compound 2b)
A mixture of 0.05 mol of 4-fluorophenylhydrazine hydrochloride and 0.05 mol of N-(3-oxocyclohexyl)acetamide in 75 ml of glacial HOAc was stirred and heated on the steam bath. At 80°-90° an exothermic reaction occurred and the source of heat was removed until the temperature had fallen to 85°. After an additional 4-5 hr at 85°-90°, the warm mixture was poured into H2O and the gummy insolubles triturated until solid. The filtered solid was washed thoroughly with H2O and then with Et2O until the washings were essentially colorless. The crude product was recrystallized from ethanol to give the title compound, mp 209°-210°.

reactant | 4-fluorophenylhydrazine hydrochloride | 0.05 mol | Cl.FC1=CC=C(C=C1)NN
reactant | N-(3-oxocyclohexyl)acetamide | 0.05 mol | O=C1CC(CCC1)NC(C)=O | C8H13NO2
solvent | HOAc | 75 ml | CC(=O)O | C2H4O2
product | N-(6-fluoro-1,3,4,9-tetrahydro-2H-carbazol-2-yl) acetamide | FC=1C=C2C=3CCC(CC3NC2=CC1)NC(C)=O | C14H15FN2O
